US05145858
2-(4-Carbethoxymethylthiophenyl)-3-(4-pyridyl)-6,7-dihydro-[5H]-pyrrolo[1,2-a]imidazole
To 1.0 gm (3.4 mmole) of 2-(4-mercaptophenyl)-3-(4-pyridyl)-6,7-dihydro-[5H]-pyrrolo[1,2-a]imidazole in 50 ml methylene chloride at 0° was added a solution of 0.63 g (3.7 mmole, 0.43 ml) ethyl bromoacetate in 10 ml CH2Cl2 over a period of 10 minutes. The reaction was allowed to come to room temperature and was stirred for 30 minutes. The mixture was then diluted with methylene chloride and washed with 3N NaHCO3, saturated NaCl, treated with Na2SO4, stripped, then flash chromatographed on silica with methylene chloride containing 1% to 5% MeOH. The isolated material was recrystallized from ethyl acetate to give 0.35 g of the titled product. 27.2% yield, mp 102°-103° C. Analyzed for C21H21N3O2S, Calculated, C: 66.47, H:5.58, N: 11.07; Found, C: 66.39, H: 5.62, N: 10.97.

reactant | 2-(4-mercaptophenyl)-3-(4-pyridyl)-6,7-dihydro-[5H]-pyrrolo[1,2-a]imidazole | 3.4 mmole, 1.0 gm | SC1=CC=C(C=C1)C=1N=C2N(C1C1=CC=NC=C1)CCC2 | C17H15N3S
reactant | ethyl bromoacetate | 3.7 mmole, 0.43 ml, 0.63 g | BrCC(=O)OCC | C4H7BrO2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Carbethoxymethylthiophenyl)-3-(4-pyridyl)-6,7-dihydro-[5H]-pyrrolo[1,2-a]imidazole | 0.35 g, 27.2% yield | C(=O)(OCC)CSC1=CC=C(C=C1)C=1N=C2N(C1C1=CC=NC=C1)CCC2 | C21H21N3O2S
